US06600038B1
In 4 ml of ethanol, 0.25 g of 4-carbamoyl-1,2,3,6-tetrahydropyridine trifluoroacetate and 0.35 g of 4-chloro-2,5-dimethyl-7-(isopropyl-2-methylthiophenyl)-7H-pyrrolo[2,3-d]pyrimidine were dissolved, and 0.39 g of diisopropylethylamine were added thereto. The reaction mixture was heated under reflux for 7.5 hours, and subsequently, a saturated aqueous solution of sodium hydrogencarbonate was poured into the reaction mixture. The reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and subsequently dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: chloroform—methanol=60:1), followed by crystallization from a mixed solvent of ethyl acetate-diethyl ether to yield 0.17 g of 4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2,5-dimethyl-7-(4-isopropyl-2-methylthiophenyl)-7H-pyrrolo [2,3-d]pyrimidine.

reactant | 4-carbamoyl-1,2,3,6-tetrahydropyridine trifluoroacetate | 0.25 g | FC(C(=O)O)(F)F.C(N)(=O)C=1CCNCC1
reactant | 4-chloro-2,5-dimethyl-7-(isopropyl-2-methylthiophenyl)-7H-pyrrolo[2,3-d]pyrimidine | 0.35 g | ClC=1C2=C(N=C(N1)C)N(C=C2C)C2=C(SC=C2C(C)C)C | C16H18ClN3S
reactant | diisopropylethylamine | 0.39 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 4-(4-carbamoyl-1,2,3,6-tetrahydropyridin-1-yl)-2,5-dimethyl-7-(4-isopropyl-2-methylthiophenyl)-7H-pyrrolo [2,3-d]pyrimidine | 0.17 g | C(N)(=O)C=1CCN(CC1)C=1C2=C(N=C(N1)C)N(C=C2C)C2=C(C=C(C=C2)C(C)C)SC | C24H29N5OS
